US06552187B1
Preparation of 8-(2,4,6-Trimethylphenyl)tetrahydropyrazolo [1,2-d][1,4,5]oxadiazepine-7,9-dione
A solution of 1.5 g (0.0068 mol) of 2,4,6-trimethylphenylmalonic acid diamide, 2.16 g (0.0082 mol) of [1,4,5]oxadiazepane dihydrobromide and 2.93 g (0.029 mol) of triethylamine. in 50 ml of xylene is heated for two hours at reflux temperature in a nitrogen atmosphere. The suspension formed is cooled to 22° C., stirred with 1N hydrochloric acid and filtered. The crystalline residue is washed with water and then with diethyl ether and dried in vacuo at 60° C. The desired title compound has a melting point of 248-250° C.

reactant | 2,4,6-trimethylphenylmalonic acid diamide | 0.0068 mol, 1.5 g | CC1=C(C(=CC(=C1)C)C)C(C(=O)N)C(=O)N | C12H16N2O2
reactant | [1,4,5]oxadiazepane dihydrobromide | 0.0082 mol, 2.16 g | Br.Br.O1CCNNCC1
reactant | triethylamine | 0.029 mol, 2.93 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-(2,4,6-Trimethylphenyl)tetrahydropyrazolo [1,2-d][1,4,5]oxadiazepine-7,9-dione | CC1=C(C(=CC(=C1)C)C)C1C(N2N(CCOCC2)C1=O)=O | C16H20N2O3
